US06162942
Under an atmosphere of nitrogen, a mixture of 6.5 g of bis-triphenylphosphine-nickel dichloride, 5 g of triphenylphosphine and 120 ml of MEK was stirred at room temperature for 10 minutes. 1.9 g of activated zinc powder were then added, and the reaction mixture was stirred at 70° C. for 30 minutes. Following this, the mixture was allowed to cool to 25° C., and 93.25 g of 1-chloro-4-trifluoromethoxybenzene were added dropwise. The mixture was stirred for 10 minutes, 24 g of sodium cyanide were added, and the reaction mixture was stirred at from 65 to 70° C. for 20 h. The conversion was then approximately 75% (GC). After cooling to room temperature, the mixture was filtered, the solid filter residue was washed 2× with 50 ml of MEK and the combined organic phases were concentrated under reduced pressure. Vacuum distillation gave 58.5 g (66% of theory) of 4-trifluoromethoxybenzonitrile as a colourless liquid (boiling point at 120 mbar: 80° C.). 2.6% of coupling products had formed.

reactant | 1-chloro-4-trifluoromethoxybenzene | 93.25 g | ClC1=CC=C(C=C1)OC(F)(F)F | C7H4ClF3O
reactant | sodium cyanide | 24 g | [C-]#N.[Na+]
catalyst | zinc | 1.9 g | [Zn] | Zn
catalyst | triphenylphosphine | 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Methyl Ethyl Ketone | 120 ml | C(C)C(=O)C | C4H8O
product | 4-trifluoromethoxybenzonitrile | 58.5 g, 66% | FC(OC1=CC=C(C#N)C=C1)(F)F | C8H4F3NO
